US08304557B2
N-[6-(3-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide
To a solution of 6-(3-nitrophenoxy)imidazo[1,2-a]pyridin-2-amine (1.40 g, 5.18 mmol) in pyridine (6 mL) was added with stirring under ice-cooling cyclopropanecarbonyl chloride (706 μL, 7.77 mmol), and the mixture was stirred at room temperature for 3 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was dissolved in methanol (50 mL). Sodium carbonate (1.00 g) and water (5 mL) were added, and the mixture was stirred at 60° C. for 2 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, ethyl acetate) to give the title compound (622 mg, 35%) as a white solid.

reactant | 6-(3-nitrophenoxy)imidazo[1,2-a]pyridin-2-amine | 5.18 mmol, 1.40 g | [N+](=O)([O-])C=1C=C(OC=2C=CC=3N(C2)C=C(N3)N)C=CC1 | C13H10N4O3
reactant | cyclopropanecarbonyl chloride | 7.77 mmol, 706 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-[6-(3-nitrophenoxy)imidazo[1,2-a]pyridin-2-yl]cyclopropanecarboxamide | 622 mg, 35% | [N+](=O)([O-])C=1C=C(OC=2C=CC=3N(C2)C=C(N3)NC(=O)C3CC3)C=CC1 | C17H14N4O4
